US05096890
Preparation of 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-[2-(2-pyridinyl)ethyl]pyrrolidine
A mixture containing 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine (1.0 g--see Preparation 8), 2-vinylpyridine (0.5 g) and 1,4-dioxane (10 ml) was heated under reflux for 20 hours. On cooling to room temperature the mixture was filtered and the filtrate was diluted with water (100 ml) then extracted with dichloromethane (3×50 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a brown oil which was purified by column chromatography on silica eluting with dichloromethane containing methanol (2% up to 10%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a colourless foam, yield, 0.31 g.

reactant | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine | 1.0 g | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCC1 | C18H20N2O
reactant | 2-vinylpyridine | 0.5 g | C(=C)C1=NC=CC=C1 | C7H7N
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-[2-(2-pyridinyl)ethyl]pyrrolidine | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CC1)CCC1=NC=CC=C1 | C25H27N3O
